US09403798B2
1-{4-[(4-chlorobenzyl)oxy]benzyl}-4-[4-(4-fluorophenyl)piperazin-yl]-6-methoxy-1,3,5-triazin-2(1H)-one
To an N,N-dimethylformamide solution (4 mL) of a crude product (0.69 mmol) of 3-{4-[(4-chlorobenzyl)oxy]benzyl}-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione, potassium carbonate (332 mg, 2.40 mmol) and methyl iodide (137 μL, 2.20 mmol) were added at room temperature and the resultant mixture was stirred at room temperature for 1 day. After the completion of the reaction, the reaction solution was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography to obtain the title compound (26 mg, two step yield: 7%).

reactant | 3-{4-[(4-chlorobenzyl)oxy]benzyl}-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione | ClC1=CC=C(COC2=CC=C(CN3C(NC(=NC3=O)N3CCN(CC3)C3=CC=C(C=C3)F)=O)C=C2)C=C1 | C27H25ClFN5O3
reactant | potassium carbonate | 2.40 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.20 mmol, 137 μL | CI | CH3I
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 1-{4-[(4-chlorobenzyl)oxy]benzyl}-4-[4-(4-fluorophenyl)piperazin-yl]-6-methoxy-1,3,5-triazin-2(1H)-one | 26 mg, yield: 7% | ClC1=CC=C(COC2=CC=C(CN3C(N=C(N=C3OC)N3CCN(CC3)C3=CC=C(C=C3)F)=O)C=C2)C=C1 | C28H27ClFN5O3
